* C:\Users\assh2802\OneDrive - USherbrooke\circuits\XYCE\simulations\ActivationFunction\Sigmoid4_HA\LTspice-cli-master\LTspice-cli-master\spice\activ_v21\complete_circuit_generated.asc
XX_cbar_26by10 Vin_cb26by10[0] Vin_cb26by10[1] Vin_cb26by10[2] Vin_cb26by10[3] Vin_cb26by10[4] Vin_cb26by10[5] Vin_cb26by10[6] Vin_cb26by10[7] Vin_cb26by10[8] Vin_cb26by10[9] Vin_cb26by10[10] Vin_cb26by10[11] Vin_cb26by10[12] Vin_cb26by10[13] Vin_cb26by10[14] Vin_cb26by10[15] Vin_cb26by10[16] Vin_cb26by10[17] Vin_cb26by10[18] Vin_cb26by10[19] Vin_cb26by10[20] Vin_cb26by10[21] Vin_cb26by10[22] Vin_cb26by10[23] Vin_cb26by10[24] Vin_cb26by10[25] Vout_cb26by10_+[0] Vout_cb26by10_+[1] Vout_cb26by10_+[2] Vout_cb26by10_+[3] Vout_cb26by10_+[4] Vout_cb26by10_-[0] Vout_cb26by10_-[1] Vout_cb26by10_-[2] Vout_cb26by10_-[3] Vout_cb26by10_-[4] x_cbar_26by10
XX_aux_10by5 Vout_cb26by10_+[0] Vout_cb26by10_+[1] Vout_cb26by10_+[2] Vout_cb26by10_+[3] Vout_cb26by10_+[4] Vout_cb26by10_-[0] Vout_cb26by10_-[1] Vout_cb26by10_-[2] Vout_cb26by10_-[3] Vout_cb26by10_-[4] Vin_cb6by2[0] Vin_cb6by2[1] Vin_cb6by2[2] Vin_cb6by2[3] Vin_cb6by2[4] x_aux_10by5
XX_cbar_6by2 Vin_cb6by2[0] Vin_cb6by2[1] Vin_cb6by2[2] Vin_cb6by2[3] Vin_cb6by2[4] Vin_cb6by2[5] Vout_cb6by2_+[0] Vout_cb6by2_-[0] x_cbar_6by2
XX_aux_2by1 Vout_cb6by2_+[0] Vout_cb6by2_-[0] h_act_out[0] x_aux_2by1
V0 Vin_cb26by10[0] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V1 Vin_cb26by10[1] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V2 Vin_cb26by10[2] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V3 Vin_cb26by10[3] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V4 Vin_cb26by10[4] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V5 Vin_cb26by10[5] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V6 Vin_cb26by10[6] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V7 Vin_cb26by10[7] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V8 Vin_cb26by10[8] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V9 Vin_cb26by10[9] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V10 Vin_cb26by10[10] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V11 Vin_cb26by10[11] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V12 Vin_cb26by10[12] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V13 Vin_cb26by10[13] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V14 Vin_cb26by10[14] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V15 Vin_cb26by10[15] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V16 Vin_cb26by10[16] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V17 Vin_cb26by10[17] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V18 Vin_cb26by10[18] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V19 Vin_cb26by10[19] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V20 Vin_cb26by10[20] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V21 Vin_cb26by10[21] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V22 Vin_cb26by10[22] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 1.150V 400.00ns 1.150V 401.00ns 0.950V
V23 Vin_cb26by10[23] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V24 Vin_cb26by10[24] 0 PWL 0.00ns 0.950V 1.00ns 0.950V 2.00ns 0.950V 400.00ns 0.950V 401.00ns 0.950V
V25 Vin_cb26by10[25] 0 PWL 0.00ns 0.950V 11.00ns 0.950V 12.00ns 1.200V 410.00ns 1.200V 411.00ns 0.950V
V26 Vin_cb6by2[5] 0 PWL 0.00ns 0.950V 11.00ns 0.950V 12.00ns 1.200V 410.00ns 1.200V 411.00ns 0.950V

* block symbol definitions
.subckt x_cbar_26by10 Vin[0] Vin[1] Vin[2] Vin[3] Vin[4] Vin[5] Vin[6] Vin[7] Vin[8] Vin[9] Vin[10] Vin[11] Vin[12] Vin[13] Vin[14] Vin[15] Vin[16] Vin[17] Vin[18] Vin[19] Vin[20] Vin[21] Vin[22] Vin[23] Vin[24] Vin[25] Vout_+[0] Vout_+[1] Vout_+[2] Vout_+[3] Vout_+[4] Vout_-[0] Vout_-[1] Vout_-[2] Vout_-[3] Vout_-[4]
r_0_0 Vin[0] Vout_+[0] 15000.0
r_0_1 Vin[0] Vout_-[0] 12488.0
r_0_2 Vin[0] Vout_+[1] 15000.0
r_0_3 Vin[0] Vout_-[1] 9078.0
r_0_4 Vin[0] Vout_+[2] 15000.0
r_0_5 Vin[0] Vout_-[2] 9425.0
r_0_6 Vin[0] Vout_+[3] 13457.0
r_0_7 Vin[0] Vout_-[3] 15000.0
r_0_8 Vin[0] Vout_+[4] 15000.0
r_0_9 Vin[0] Vout_-[4] 14856.0
r_1_0 Vin[1] Vout_+[0] 15000.0
r_1_1 Vin[1] Vout_-[0] 10890.0
r_1_2 Vin[1] Vout_+[1] 15000.0
r_1_3 Vin[1] Vout_-[1] 9589.0
r_1_4 Vin[1] Vout_+[2] 15000.0
r_1_5 Vin[1] Vout_-[2] 10070.0
r_1_6 Vin[1] Vout_+[3] 15000.0
r_1_7 Vin[1] Vout_-[3] 12997.0
r_1_8 Vin[1] Vout_+[4] 9571.0
r_1_9 Vin[1] Vout_-[4] 15000.0
r_2_0 Vin[2] Vout_+[0] 15000.0
r_2_1 Vin[2] Vout_-[0] 10897.0
r_2_2 Vin[2] Vout_+[1] 15000.0
r_2_3 Vin[2] Vout_-[1] 9539.0
r_2_4 Vin[2] Vout_+[2] 15000.0
r_2_5 Vin[2] Vout_-[2] 10130.0
r_2_6 Vin[2] Vout_+[3] 15000.0
r_2_7 Vin[2] Vout_-[3] 12632.0
r_2_8 Vin[2] Vout_+[4] 9971.0
r_2_9 Vin[2] Vout_-[4] 15000.0
r_3_0 Vin[3] Vout_+[0] 15000.0
r_3_1 Vin[3] Vout_-[0] 13122.0
r_3_2 Vin[3] Vout_+[1] 15000.0
r_3_3 Vin[3] Vout_-[1] 9676.0
r_3_4 Vin[3] Vout_+[2] 15000.0
r_3_5 Vin[3] Vout_-[2] 10130.0
r_3_6 Vin[3] Vout_+[3] 14607.0
r_3_7 Vin[3] Vout_-[3] 15000.0
r_3_8 Vin[3] Vout_+[4] 9637.0
r_3_9 Vin[3] Vout_-[4] 15000.0
r_4_0 Vin[4] Vout_+[0] 15000.0
r_4_1 Vin[4] Vout_-[0] 13804.0
r_4_2 Vin[4] Vout_+[1] 15000.0
r_4_3 Vin[4] Vout_-[1] 9301.0
r_4_4 Vin[4] Vout_+[2] 15000.0
r_4_5 Vin[4] Vout_-[2] 10221.0
r_4_6 Vin[4] Vout_+[3] 15000.0
r_4_7 Vin[4] Vout_-[3] 13271.0
r_4_8 Vin[4] Vout_+[4] 9315.0
r_4_9 Vin[4] Vout_-[4] 15000.0
r_5_0 Vin[5] Vout_+[0] 15000.0
r_5_1 Vin[5] Vout_-[0] 13176.0
r_5_2 Vin[5] Vout_+[1] 15000.0
r_5_3 Vin[5] Vout_-[1] 9436.0
r_5_4 Vin[5] Vout_+[2] 15000.0
r_5_5 Vin[5] Vout_-[2] 9853.0
r_5_6 Vin[5] Vout_+[3] 13893.0
r_5_7 Vin[5] Vout_-[3] 15000.0
r_5_8 Vin[5] Vout_+[4] 10480.0
r_5_9 Vin[5] Vout_-[4] 15000.0
r_6_0 Vin[6] Vout_+[0] 15000.0
r_6_1 Vin[6] Vout_-[0] 14611.0
r_6_2 Vin[6] Vout_+[1] 15000.0
r_6_3 Vin[6] Vout_-[1] 9505.0
r_6_4 Vin[6] Vout_+[2] 15000.0
r_6_5 Vin[6] Vout_-[2] 10038.0
r_6_6 Vin[6] Vout_+[3] 15000.0
r_6_7 Vin[6] Vout_-[3] 13958.0
r_6_8 Vin[6] Vout_+[4] 7595.0
r_6_9 Vin[6] Vout_-[4] 15000.0
r_7_0 Vin[7] Vout_+[0] 15000.0
r_7_1 Vin[7] Vout_-[0] 13908.0
r_7_2 Vin[7] Vout_+[1] 15000.0
r_7_3 Vin[7] Vout_-[1] 9602.0
r_7_4 Vin[7] Vout_+[2] 15000.0
r_7_5 Vin[7] Vout_-[2] 10175.0
r_7_6 Vin[7] Vout_+[3] 14549.0
r_7_7 Vin[7] Vout_-[3] 15000.0
r_7_8 Vin[7] Vout_+[4] 8830.0
r_7_9 Vin[7] Vout_-[4] 15000.0
r_8_0 Vin[8] Vout_+[0] 15000.0
r_8_1 Vin[8] Vout_-[0] 13680.0
r_8_2 Vin[8] Vout_+[1] 15000.0
r_8_3 Vin[8] Vout_-[1] 10011.0
r_8_4 Vin[8] Vout_+[2] 15000.0
r_8_5 Vin[8] Vout_-[2] 10304.0
r_8_6 Vin[8] Vout_+[3] 15000.0
r_8_7 Vin[8] Vout_-[3] 12174.0
r_8_8 Vin[8] Vout_+[4] 8631.0
r_8_9 Vin[8] Vout_-[4] 15000.0
r_9_0 Vin[9] Vout_+[0] 15000.0
r_9_1 Vin[9] Vout_-[0] 12903.0
r_9_2 Vin[9] Vout_+[1] 15000.0
r_9_3 Vin[9] Vout_-[1] 9476.0
r_9_4 Vin[9] Vout_+[2] 15000.0
r_9_5 Vin[9] Vout_-[2] 10291.0
r_9_6 Vin[9] Vout_+[3] 15000.0
r_9_7 Vin[9] Vout_-[3] 12874.0
r_9_8 Vin[9] Vout_+[4] 9256.0
r_9_9 Vin[9] Vout_-[4] 15000.0
r_10_0 Vin[10] Vout_+[0] 15000.0
r_10_1 Vin[10] Vout_-[0] 11045.0
r_10_2 Vin[10] Vout_+[1] 15000.0
r_10_3 Vin[10] Vout_-[1] 9372.0
r_10_4 Vin[10] Vout_+[2] 15000.0
r_10_5 Vin[10] Vout_-[2] 10506.0
r_10_6 Vin[10] Vout_+[3] 15000.0
r_10_7 Vin[10] Vout_-[3] 14527.0
r_10_8 Vin[10] Vout_+[4] 7997.0
r_10_9 Vin[10] Vout_-[4] 15000.0
r_11_0 Vin[11] Vout_+[0] 15000.0
r_11_1 Vin[11] Vout_-[0] 12559.0
r_11_2 Vin[11] Vout_+[1] 15000.0
r_11_3 Vin[11] Vout_-[1] 9462.0
r_11_4 Vin[11] Vout_+[2] 15000.0
r_11_5 Vin[11] Vout_-[2] 10234.0
r_11_6 Vin[11] Vout_+[3] 14800.0
r_11_7 Vin[11] Vout_-[3] 15000.0
r_11_8 Vin[11] Vout_+[4] 9370.0
r_11_9 Vin[11] Vout_-[4] 15000.0
r_12_0 Vin[12] Vout_+[0] 15000.0
r_12_1 Vin[12] Vout_-[0] 14041.0
r_12_2 Vin[12] Vout_+[1] 15000.0
r_12_3 Vin[12] Vout_-[1] 9497.0
r_12_4 Vin[12] Vout_+[2] 15000.0
r_12_5 Vin[12] Vout_-[2] 10558.0
r_12_6 Vin[12] Vout_+[3] 15000.0
r_12_7 Vin[12] Vout_-[3] 13328.0
r_12_8 Vin[12] Vout_+[4] 9179.0
r_12_9 Vin[12] Vout_-[4] 15000.0
r_13_0 Vin[13] Vout_+[0] 15000.0
r_13_1 Vin[13] Vout_-[0] 12246.0
r_13_2 Vin[13] Vout_+[1] 15000.0
r_13_3 Vin[13] Vout_-[1] 9618.0
r_13_4 Vin[13] Vout_+[2] 15000.0
r_13_5 Vin[13] Vout_-[2] 10156.0
r_13_6 Vin[13] Vout_+[3] 13792.0
r_13_7 Vin[13] Vout_-[3] 15000.0
r_13_8 Vin[13] Vout_+[4] 9408.0
r_13_9 Vin[13] Vout_-[4] 15000.0
r_14_0 Vin[14] Vout_+[0] 15000.0
r_14_1 Vin[14] Vout_-[0] 11312.0
r_14_2 Vin[14] Vout_+[1] 15000.0
r_14_3 Vin[14] Vout_-[1] 9797.0
r_14_4 Vin[14] Vout_+[2] 15000.0
r_14_5 Vin[14] Vout_-[2] 10194.0
r_14_6 Vin[14] Vout_+[3] 13478.0
r_14_7 Vin[14] Vout_-[3] 15000.0
r_14_8 Vin[14] Vout_+[4] 7813.0
r_14_9 Vin[14] Vout_-[4] 15000.0
r_15_0 Vin[15] Vout_+[0] 15000.0
r_15_1 Vin[15] Vout_-[0] 12751.0
r_15_2 Vin[15] Vout_+[1] 15000.0
r_15_3 Vin[15] Vout_-[1] 9665.0
r_15_4 Vin[15] Vout_+[2] 15000.0
r_15_5 Vin[15] Vout_-[2] 10311.0
r_15_6 Vin[15] Vout_+[3] 15000.0
r_15_7 Vin[15] Vout_-[3] 12571.0
r_15_8 Vin[15] Vout_+[4] 8879.0
r_15_9 Vin[15] Vout_-[4] 15000.0
r_16_0 Vin[16] Vout_+[0] 15000.0
r_16_1 Vin[16] Vout_-[0] 11724.0
r_16_2 Vin[16] Vout_+[1] 15000.0
r_16_3 Vin[16] Vout_-[1] 9408.0
r_16_4 Vin[16] Vout_+[2] 15000.0
r_16_5 Vin[16] Vout_-[2] 10608.0
r_16_6 Vin[16] Vout_+[3] 15000.0
r_16_7 Vin[16] Vout_-[3] 13070.0
r_16_8 Vin[16] Vout_+[4] 8994.0
r_16_9 Vin[16] Vout_-[4] 15000.0
r_17_0 Vin[17] Vout_+[0] 15000.0
r_17_1 Vin[17] Vout_-[0] 11368.0
r_17_2 Vin[17] Vout_+[1] 15000.0
r_17_3 Vin[17] Vout_-[1] 9533.0
r_17_4 Vin[17] Vout_+[2] 15000.0
r_17_5 Vin[17] Vout_-[2] 10280.0
r_17_6 Vin[17] Vout_+[3] 13140.0
r_17_7 Vin[17] Vout_-[3] 15000.0
r_17_8 Vin[17] Vout_+[4] 9153.0
r_17_9 Vin[17] Vout_-[4] 15000.0
r_18_0 Vin[18] Vout_+[0] 15000.0
r_18_1 Vin[18] Vout_-[0] 12228.0
r_18_2 Vin[18] Vout_+[1] 15000.0
r_18_3 Vin[18] Vout_-[1] 9452.0
r_18_4 Vin[18] Vout_+[2] 15000.0
r_18_5 Vin[18] Vout_-[2] 10236.0
r_18_6 Vin[18] Vout_+[3] 15000.0
r_18_7 Vin[18] Vout_-[3] 13434.0
r_18_8 Vin[18] Vout_+[4] 8261.0
r_18_9 Vin[18] Vout_-[4] 15000.0
r_19_0 Vin[19] Vout_+[0] 15000.0
r_19_1 Vin[19] Vout_-[0] 12546.0
r_19_2 Vin[19] Vout_+[1] 15000.0
r_19_3 Vin[19] Vout_-[1] 9352.0
r_19_4 Vin[19] Vout_+[2] 15000.0
r_19_5 Vin[19] Vout_-[2] 10059.0
r_19_6 Vin[19] Vout_+[3] 15000.0
r_19_7 Vin[19] Vout_-[3] 13561.0
r_19_8 Vin[19] Vout_+[4] 10987.0
r_19_9 Vin[19] Vout_-[4] 15000.0
r_20_0 Vin[20] Vout_+[0] 15000.0
r_20_1 Vin[20] Vout_-[0] 11168.0
r_20_2 Vin[20] Vout_+[1] 15000.0
r_20_3 Vin[20] Vout_-[1] 9297.0
r_20_4 Vin[20] Vout_+[2] 15000.0
r_20_5 Vin[20] Vout_-[2] 9911.0
r_20_6 Vin[20] Vout_+[3] 15000.0
r_20_7 Vin[20] Vout_-[3] 11906.0
r_20_8 Vin[20] Vout_+[4] 9553.0
r_20_9 Vin[20] Vout_-[4] 15000.0
r_21_0 Vin[21] Vout_+[0] 15000.0
r_21_1 Vin[21] Vout_-[0] 11641.0
r_21_2 Vin[21] Vout_+[1] 15000.0
r_21_3 Vin[21] Vout_-[1] 9434.0
r_21_4 Vin[21] Vout_+[2] 15000.0
r_21_5 Vin[21] Vout_-[2] 9952.0
r_21_6 Vin[21] Vout_+[3] 15000.0
r_21_7 Vin[21] Vout_-[3] 12878.0
r_21_8 Vin[21] Vout_+[4] 9865.0
r_21_9 Vin[21] Vout_-[4] 15000.0
r_22_0 Vin[22] Vout_+[0] 15000.0
r_22_1 Vin[22] Vout_-[0] 12108.0
r_22_2 Vin[22] Vout_+[1] 15000.0
r_22_3 Vin[22] Vout_-[1] 9238.0
r_22_4 Vin[22] Vout_+[2] 15000.0
r_22_5 Vin[22] Vout_-[2] 10227.0
r_22_6 Vin[22] Vout_+[3] 15000.0
r_22_7 Vin[22] Vout_-[3] 14969.0
r_22_8 Vin[22] Vout_+[4] 9094.0
r_22_9 Vin[22] Vout_-[4] 15000.0
r_23_0 Vin[23] Vout_+[0] 15000.0
r_23_1 Vin[23] Vout_-[0] 11903.0
r_23_2 Vin[23] Vout_+[1] 15000.0
r_23_3 Vin[23] Vout_-[1] 9216.0
r_23_4 Vin[23] Vout_+[2] 15000.0
r_23_5 Vin[23] Vout_-[2] 10168.0
r_23_6 Vin[23] Vout_+[3] 15000.0
r_23_7 Vin[23] Vout_-[3] 14183.0
r_23_8 Vin[23] Vout_+[4] 9469.0
r_23_9 Vin[23] Vout_-[4] 15000.0
r_24_0 Vin[24] Vout_+[0] 15000.0
r_24_1 Vin[24] Vout_-[0] 12139.0
r_24_2 Vin[24] Vout_+[1] 15000.0
r_24_3 Vin[24] Vout_-[1] 8930.0
r_24_4 Vin[24] Vout_+[2] 15000.0
r_24_5 Vin[24] Vout_-[2] 9709.0
r_24_6 Vin[24] Vout_+[3] 15000.0
r_24_7 Vin[24] Vout_-[3] 12559.0
r_24_8 Vin[24] Vout_+[4] 13827.0
r_24_9 Vin[24] Vout_-[4] 15000.0
r_25_0 Vin[25] Vout_+[0] 8508.0
r_25_1 Vin[25] Vout_-[0] 15000.0
r_25_2 Vin[25] Vout_+[1] 5497.0
r_25_3 Vin[25] Vout_-[1] 15000.0
r_25_4 Vin[25] Vout_+[2] 6245.0
r_25_5 Vin[25] Vout_-[2] 15000.0
r_25_6 Vin[25] Vout_+[3] 15000.0
r_25_7 Vin[25] Vout_-[3] 11427.0
r_25_8 Vin[25] Vout_+[4] 15000.0
r_25_9 Vin[25] Vout_-[4] 11053.0
.ends x_cbar_26by10

.subckt x_aux_10by5 tia_h_in_+[0] tia_h_in_+[1] tia_h_in_+[2] tia_h_in_+[3] tia_h_in_+[4] tia_h_in_-[0] tia_h_in_-[1] tia_h_in_-[2] tia_h_in_-[3] tia_h_in_-[4] h_act_out[0] h_act_out[1] h_act_out[2] h_act_out[3] h_act_out[4]
XX0 TIA_H_IN_+[0] TIA_H_IN_-[0] H_ACT_OUT[0] column_activ_cmos_v2
XX1 TIA_H_IN_+[1] TIA_H_IN_-[1] H_ACT_OUT[1] column_activ_cmos_v2
XX2 TIA_H_IN_+[2] TIA_H_IN_-[2] H_ACT_OUT[2] column_activ_cmos_v2
XX3 TIA_H_IN_+[3] TIA_H_IN_-[3] H_ACT_OUT[3] column_activ_cmos_v2
XX4 TIA_H_IN_+[4] TIA_H_IN_-[4] H_ACT_OUT[4] column_activ_cmos_v2
.ends x_aux_10by5

.subckt x_cbar_6by2 Vin[0] Vin[1] Vin[2] Vin[3] Vin[4] Vin[5] Vout_+[0] Vout_-[0]
r_0_0 Vin[0] Vout_+[0] 15000.0
r_0_1 Vin[0] Vout_-[0] 8114.0
r_1_0 Vin[1] Vout_+[0] 15000.0
r_1_1 Vin[1] Vout_-[0] 5658.0
r_2_0 Vin[2] Vout_+[0] 15000.0
r_2_1 Vin[2] Vout_-[0] 5000.0
r_3_0 Vin[3] Vout_+[0] 15000.0
r_3_1 Vin[3] Vout_-[0] 9962.0
r_4_0 Vin[4] Vout_+[0] 8147.0
r_4_1 Vin[4] Vout_-[0] 15000.0
r_5_0 Vin[5] Vout_+[0] 8887.0
r_5_1 Vin[5] Vout_-[0] 15000.0
.ends x_cbar_6by2

.subckt x_aux_2by1 tia_h_in_+[0] tia_h_in_-[0] h_act_out[0]
XX0 TIA_H_IN_+[0] TIA_H_IN_-[0] H_ACT_OUT[0] column_activ_cmos_v2
.ends x_aux_2by1

.subckt column_activ_cmos_v2 tia_h_in_+ tia_h_in_- sum_activ_out
R1 N005 N004 40
V1 N001 0 1.8
XX1 N003 N007 N004 N001 tia_sch_v0
XX2 tia_h_in_+ tia_h_in_- N001 0 N002 N007 cbplussubtractor
XX3 N006 sum_activ_out sourcefollower
R2 N003 N002 40
XX4 N005 N006 rnn_sigmoid4_ha
V2 N007 0 0.9
.include "../components/activations.sub"
.include "../components/180nm_bulk.txt"
.ends column_activ_cmos_v2

.subckt tia_sch_v0 Iin Vcm Vctrl Vdd
XU1 Vcm Iin Vdd 0 N001 level1 Avol=1Meg GBW=800Meg Vos=0 Slew=80Meg En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Vcm N002 Vdd 0 Vctrl level1 Avol=1Meg GBW=800Meg Vos=0 Slew=80Meg En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 Iin 10K
C1 N001 Iin 0.1f
R2 Vctrl N002 10K
R3 N002 N001 10K
.ends tia_sch_v0

.subckt cbplussubtractor In Ip VDD VSS Iout Vref
M16 VDD N002 N003 VDD pch_mac l=500n w=30u
M15 VDD N002 N002 VDD pch_mac l=500n w=30u
M11_1 N001 A In VSS nch_mac
M4_2 A In N006 VSS nch_mac l=500n w=30u
M13_2 VDD N001 N002 VDD pch_mac l=500n w=30u
M13_1 VDD N001 N001 VDD pch_mac l=500n w=30u
M9 VDD N001 N005 VDD pch_mac l=500n w=45u
M6_1 VDD N004 C VDD pch_mac l=500n w=60u
M6_2 VDD N004 A VDD pch_mac l=500n w=60u
M5 VDD N004 N004 VDD pch_mac l=500n w=60u
M1 N004 Vref N006 VSS nch_mac l=500n w=30u
M2 N005 Vref N007 VDD pch_mac l=500n w=90u
M3_2 N005 In B VDD pch_mac l=500n w=90u
M3_1 N005 Ip D VDD pch_mac l=500n w=90u
M10 N006 N010 VSS VSS nch_mac l=500n w=15u
M7 N007 N009 VSS VSS nch_mac l=500n w=20u
M8_1 D N009 VSS VSS nch_mac l=500n w=20u
M8_2 B N009 VSS VSS nch_mac l=500n w=20u
M11_2 N002 C Ip VSS nch_mac l=500n w=20u
M17 N002 C N008 VDD pch_mac l=500n w=20u
M18 N008 D N011 VSS nch_mac l=500n w=60u
M12_2 Ip D N011 VDD pch_mac l=500n w=60u
M20 N003 N011 VSS VSS nch_mac l=500n w=10u
M19 N011 N011 VSS VSS nch_mac l=500n w=10u
M14_2 N011 N010 VSS VSS nch_mac l=500n w=10u
M14_1 N010 N010 VSS VSS nch_mac l=500n w=10u
M12_1 In B N010 VDD pch_mac l=500n w=60u
M4_1 C Ip N006 VSS nch_mac l=500n w=30u
M3 VDD N003 N003 VDD pch_mac l=2u w=30u
M4 VDD N003 Iout VDD pch_mac l=2u w=30u
.ends cbplussubtractor

.subckt sourcefollower Vin Vout
XU1 Vin Vout N001 0 Vout level1 Avol=1Meg GBW=100Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N001 0 1.8
.ends sourcefollower

.subckt rnn_sigmoid4_ha Vp Vout
M1 Vout N003 N004 N004 nch_mac l=2u w=1u
M2 N003 N003 N004 N004 nch_mac l=2u w=1u
M3 N002 Vp N003 VDD pch_mac l=3u w=4u
M4 N002 N001 Vout VDD pch_mac l=3u w=4u
M5 VDD 1.2 N002 VDD pch_mac l=2u w=5.7u
R1 Vout N004 100K
V1 VDD 0 1.8
V2 1.2 0 0.9
V3 N001 0 0.9
C3 Vout N004 0.05p
M6 N004 N004 N005 0 nch_mac l=2u w=5u m=15
M7 N005 N005 0 0 nch_mac l=2u w=5u m=15
.ends rnn_sigmoid4_ha

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\usherbrooke\AppData\Local\LTspice\lib\cmp\standard.mos
.tran {simtime}
.param simtime=1u
.include ../components/180nm_bulk.txt
.lib UniversalOpAmp1.lib
.backanno
.end
